US06509467B1
Preparation of N-Methyl-1-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide
To a stirred solution of 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline in acetone was added methyl iodide and the reaction mixture was stirred at room temperature for 16 hours. A bright yellow precipitate formed. The by-products and methyl iodide were removed in vacuo to afford the desired compound in 95% yield.

reactant | 1-methyl-6,7-dimethoxy-3,4-dihydroisoquinoline | CC1=NCCC2=CC(=C(C=C12)OC)OC | C12H15NO2
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | N-Methyl-1-methyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide | 95% yield | [I-].C[N+]1=C(C2=CC(=C(C=C2CC1)OC)OC)C | InChI=1S/C13H18NO2.HI/c1-9-11-8-13(16-4)12(15-3)7-10(11)5-6-14(9)2;/h7-8H,5-6H2,1-4H3;1H/q+1;/p-1
